US07683096B2
Under nitrogen atmosphere, 11.7 ml of n-butyllithium (1.57 M-n-hexane solution) was dropwise added at −20° C. to a mixture of 1.85 g of diisopropylamine and 50 ml of tetrahydrofuran, and then the mixture was stirred at the same temperature for 30 minutes. 5.0 g of 6-bromo-2,2,3,3,-tetrafluoro-1,4-benzodioxane was dropwise added thereto at a temperature of at most −50° C., followed by stirring at the same temperature for 30 minutes. Then, 5.5 ml of methyl iodide was dropwise added thereto at a temperature of at most −70° C., and then the temperature was raised to room temperature, followed by a reaction for 15 hours. After completion of the reaction, the reaction mixture was put into water and then weakly acidified by an addition of hydrochloric acid. Then, the mixture was extracted with ethyl ether, and the extract was washed with water and dried over magnesium sulfate, followed by concentration under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: n-hexane) to obtain 3.40 g of oily 6-bromo-2,2,3,3,-tetrafluoro-5-methyl-1,4-benzodioxane. The NMR spectrum data of this product were as follows.

reactant | n-butyllithium | 1.57 M, 11.7 ml | C(CCC)[Li]
reactant | diisopropylamine | 1.85 g | C(C)(C)NC(C)C | C6H15N
reactant | 6-bromo-2,2,3,3,-tetrafluoro-1,4-benzodioxane | 5.0 g | BrC1=CC2=C(OC(C(O2)(F)F)(F)F)C=C1 | C8H3BrF4O2
reactant | methyl iodide | 5.5 ml | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-bromo-2,2,3,3,-tetrafluoro-5-methyl-1,4-benzodioxane | 3.40 g | BrC1=C(C2=C(OC(C(O2)(F)F)(F)F)C=C1)C | C9H5BrF4O2
